US05817678
Step B: Preparation of 1-(2,2-Diphenylethyl)-3(S)-hydroxymethyl-piperidine
Ethyl 1-(2,2-Diphenylethyl)-3(S)-piperidine carboxylate (4.90 g, 0.014 mol) dissolved in dry ether (40 mL) was added to a suspension of lithium aluminum hydride (1.93 g, 0.051 mol) in dry ether (40 mL). The solution was refluxed until the starting material was consumed and then was quenched with saturated potassium sodium tartrate solution (100 mL) and stirred for 2 hr. The layers were separated and the aqueous layer extracted with ether (2×). The combined organic extracts were dried (MgSO4) and concentrated to yield the title compound without further purification.

reactant | Ethyl 1-(2,2-Diphenylethyl)-3(S)-piperidine carboxylate | 0.014 mol, 4.90 g | C1(=CC=CC=C1)C(CN1C[C@H](CCC1)C(=O)OCC)C1=CC=CC=C1 | C22H27NO2
reactant | lithium aluminum hydride | 0.051 mol, 1.93 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | 40 mL | CCOCC | C4H10O
solvent | ether | 40 mL | CCOCC | C4H10O
product | 1-(2,2-Diphenylethyl)-3(S)-hydroxymethyl-piperidine | C1(=CC=CC=C1)C(CN1C[C@H](CCC1)CO)C1=CC=CC=C1 | C20H25NO
